US05401825
n-Octadecyl Urea Styrene:
1.00 g (8.40 mmol) of p-aminostyrene (99% Tokyo Kasei) was added to a 250 ml round bottom flask containing 10 ml of chloroform. After ten minutes of mixing, 2.52 g (8.41 mmol) of n-octadecyl isocyanate (98% Aldrich) was added dropwise. Within seconds, a yellow precipitate formed. Chloroform (20 ml) was added to aid stirring. The precipitate was filtered to remove the reaction liquid, then washed with 20 ml of chloroform resulting in a pale yellow powder (3.38 g, 96.0% crude yield, mp=109° C.).

reactant | p-aminostyrene | 8.40 mmol, 1.00 g | NC1=CC=C(C=C)C=C1 | C8H9N
reactant | n-octadecyl isocyanate | 8.41 mmol, 2.52 g | C(CCCCCCCCCCCCCCCCC)N=C=O | C19H37NO
solvent | Chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | n-Octadecyl Urea Styrene | C=CC1=CC=CC=C1.C(CCCCCCCCCCCCCCCCC)NC(=O)N | InChI=1S/C19H40N2O.C8H8/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-21-19(20)22;1-2-8-6-4-3-5-7-8/h2-18H2,1H3,(H3,20,21,22);2-7H,1H2
